US07417062B2
Step 2: 2-(S)-{[Benzofuran-2-ylmethyl-(3,4-dimethoxy-benzoyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester
Experimental condition analogous to Example 1, from 3,4,5-trimethoxy benzoic acid 72 mg (0.39 mmol), 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride 75 mg (0.39 mmol), 1-hydroxybenzotriazole 45 mg (0.33 mmol), triethylamine 0.05 mL (0.39 mmol), and 2-(S)-{[(benzofuran-2-ylmethyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester, 100 mg (0.3 mmol) in 3 mL tetrahydrofuran. The compound was purified through silica gel chromatography elution with ethyl acetate: methanol 9:1, gave 93 mg of white oily compound.

reactant | 3,4,5-trimethoxy benzoic acid | 0.39 mmol, 72 mg | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 0.39 mmol, 75 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.33 mmol, 45 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.39 mmol, 0.05 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(S)-{[(benzofuran-2-ylmethyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNCC=1OC2=C(C1)C=CC=C2 | C19H26N2O3
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-(S)-{[Benzofuran-2-ylmethyl-(3,4-dimethoxy-benzoyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 93 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN(C(C1=CC(=C(C=C1)OC)OC)=O)CC=1OC2=C(C1)C=CC=C2 | C28H34N2O6
